Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
bee sting / adhesive tape
 
Attending: ___.
 
Chief Complaint:
unintentional weight loss
 
Major Surgical or Invasive Procedure:
Attempted total laparoscopic hysterectomy converted to 
exploratory laparotomy, total abdominal hysterectomy, bilateral 
salpingo-oophorectomy, bilateral pelvic and paraaortic 
lymphadenectomy, peritoneal and omental biopsies.

 
History of Present Illness:
Ms. ___ is a ___ who presented with unintentional 
weight loss.  A CT scan was ordered and demonstrated a 9.2 x 5.3 
x 5.3cm soft tissue mass replacing the entirety of the left 
uterine myometrium except for a thin serosal margin, appearing 
to originate from the canal along with adenopathy concerning for 
cancer.  She was referred to ___ and underwent a biopsy which 
demonstrated a high grade endometrial cancer. The patient was 
referred to GYN oncology for further evaluation and treatment 
recommendations.  She presents for consultation along with her 
sister ___, her father and step-mother.
Since then she continues to have on/off light to moderate 
bleeding.  She notes some cramping with bleeding episodes. 
Despite weight loss, we has a good appetite.  She has baseline 
constipation but notes an increase in urinary frequency with 
some leakage.  She otherwise feels well and denies any pain or 
discomfort. She denies any early satiety, nausea/vomiting, 
SOB/CP, increased abdominal girth, abdominal or pelvic pain, 
vaginal discharge, or change in her bowel habits.

 
Past Medical History:
1. Hydrocephalus with ventricular shunt
2. Epilepsy
3. Anxiety
4. Depression
 
Social History:
___
Family History:
- Sister with breast cancer at age ___ died at ___
- Another sister with breast cancer to ___ s/p lumpectomy/RT and 
colon cancer s/p surgery and chemo
- Father and paternal uncle with prostate cancer
- Paternal GM with breast cancer
- No uterine or ovarian cancers
- Genetic testing has been negative to date in affected 
relatives
 
Physical ___:
Physical Examination at Discharge:

General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended, appropriately tender to palpation
without rebound or guarding, incision clean/dry/intact
GU: pad with minimal spotting
Extremities: no edema, no TTP, pneumoboots in place bilaterally

 
Pertinent Results:
Labs on Discharge: 

___ 08:05AM BLOOD WBC-5.7 RBC-2.87* Hgb-8.6* Hct-26.1* 
MCV-91 MCH-30.0 MCHC-33.0 RDW-14.7 RDWSD-48.7* Plt ___
___ 08:05AM BLOOD Plt ___
___ 08:05AM BLOOD Glucose-89 UreaN-9 Creat-0.3* Na-143 
K-4.2 Cl-108 HCO3-28 AnGap-7*
___ 08:05AM BLOOD Calcium-8.2* Phos-2.6* Mg-2.0
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service after 
undergoing attempted total laparoscopic hysterectomy converted 
to exploratory laparotomy, total abdominal hysterectomy, 
bilateral salpingo-oophorectomy, bilateral pelvic and paraaortic 
lymphadenectomy, peritoneal and omental biopsies for high-grade 
endometrial cancer. Please see the operative report for full 
details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV 
Dilaudid/Toradol as needed for breakthrough pain and oral 
Oxycodone, Acetaminophen, and Ibuprofen. 

On POD #1, the patient had hypocalcaemia on morning BMP to 5.8 
with an ionized Calcium of 1.0. It was associated with 
hypophosphatemia and hypomagnesemia. She had a work-up including 
EKG, albumin, PTH, Vitamin D and alkaline phosphatase which was 
all normal with the exception of a mildly elevated Vitamin D. 
Her corrected calcium was 7.16. She received repletion for 
electrolyte imbalances. She remained asymptomatic throughout 
this time period and her following BMP was within normal limits. 
 

Her diet was advanced without difficulty and she was 
transitioned on POD #2 to PO Oxycodone, Acetaminophen, and 
Ibuprofen. On post-operative day #2, her urine output was 
adequate so her Foley catheter was removed and she voided 
spontaneously.

She was seen by social work and nutrition during this admission. 


By post-operative day #3, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged to an 
extended care facility in stable condition with outpatient 
follow-up scheduled.

She will be in an extended care facility for <30 days. 

 
Medications on Admission:
tegratol 600mg BID; mysoline 250mg BID; vit D,
zoloft 100mg QD

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1 
3.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC daily Disp #*30 Syringe 
Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Please take with food.  
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - Mild 

  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*60 Tablet Refills:*0 
6.  CarBAMazepine 600 mg PO BID  
7.  PrimiDONE 250 mg PO BID  
8.  Sertraline 100 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
High-grade endometrial cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. 

While you were here some of your electrolytes were low. We 
replaced these daily as needed. One of your electrolytes that 
was low was your calcium. We did an EKG to look at the 
electrical activity of your heart and this was normal. We did 
further labs to find a cause for your low calcium but these came 
back normal. We replaced your calcium and it came back to a 
normal level. 

We consulted the nutrition service while you were here. They 
gave you recommendations for a healthy diet to follow. Please 
continue to follow their recommendations when you leave the 
hospital. 

Please follow these instructions: 

Abdominal instructions:  
* Take your medications as prescribed.  We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  
* If you have staples, they will be removed at your follow-up 
visit. 

Lovenox injections:
* Patients having surgery for cancer have risk of developing 
blood clots after surgery. This risk is highest in the first 
four weeks after surgery. You will be discharged with a daily 
Lovenox (blood thinning) medication. This is a preventive dose 
of medication to decrease your risk of a forming a blood clot. A 
visiting nurse ___ assist you in administering these 
injections. 

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea. 

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___